US05486466
A solution of 0.64 g of p-nitrobenzyl (R)-2-[[[2-(methoxycarbonyl)-2-(methylamino)-ethyl]thio]methyl]-3-(tert-butyldimethylsilyloxy)-5-methoxybenzoate and 0.58 g of 3-trityloxypropionyl chloride in 6 ml of methylene chloride was treated at 0° C. with 0.17 g of triethylamine. The mixture was stirred at 0° C. for 30 minutes, then diluted with methylene chloride, and washed successively with 5% sodium bicarbonate solution and brine. The organic layer was dried over sodium sulfate, and the solvent was evaporated in vacuo. The residual oil was chromatographed on silica gel using ethyl acetate/hexane (1:2, v/v) as eluent to yield 0.65 g of p-nitrobenzyl (R)-3-(tert-butyldimethylsilyloxy)-5-methoxy-2-[[[2-(3-trityloxypropionyl-methylamino)-2-methoxycarbonyl-ethyl]thio]methyl]-benzoate as an oil.

reactant | p-nitrobenzyl (R)-2-[[[2-(methoxycarbonyl)-2-(methylamino)-ethyl]thio]methyl]-3-(tert-butyldimethylsilyloxy)-5-methoxybenzoate | 0.64 g | COC(=O)[C@H](CSCC1=C(C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C=C(C=C1O[Si](C)(C)C(C)(C)C)OC)NC | C27H38N2O8SSi
reactant | 3-trityloxypropionyl chloride | 0.58 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OCCC(=O)Cl | C22H19ClO2
reactant | triethylamine | 0.17 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | p-nitrobenzyl (R)-3-(tert-butyldimethylsilyloxy)-5-methoxy-2-[[[2-(3-trityloxypropionyl-methylamino)-2-methoxycarbonyl-ethyl]thio]methyl]-benzoate | 0.65 g | [Si](C)(C)(C(C)(C)C)OC=1C(=C(C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C=C(C1)OC)CSC[C@@H](C(=O)OC)N(C)C(CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C49H56N2O10SSi
